US20010047099A1
A. Methyl 3,6-dichloropyridine-2-carboxylate
To a 3-neck round bottom flask equipped with a reflux condenser was added 3,6-dichloropyridine-2-carboxylic acid (50.0 g, 260.42 mmol) in methanol (200 mL). HCl(g) was bubbled in until solution became saturated and stirred at room temperature for 2 hr. The solution was concentrated to dryness in vacuo. Diethyl ether was added to make a slurry that was subsequently added to a flask filled with a 1:1 mixture of saturated sodium bicarbonate/diethyl ether and stirred for 10 min. The aqueous phase was extracted with diethyl ether (3×300 mL). The combined extracts were dried (MgSO4) and concentrated to give 46.6 g of a light yellow solid. 1H NMR(CDCl3): 67 4.00 (s, 3H); 7.41 (d, 1H); 7.80 (d, 1H).

reactant | 3,6-dichloropyridine-2-carboxylic acid | 260.42 mmol, 50.0 g | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
reactant | methanol | 200 mL | CO | CH4O
product | Methyl 3,6-dichloropyridine-2-carboxylate | 46.6 g | ClC=1C(=NC(=CC1)Cl)C(=O)OC | C7H5Cl2NO2
